* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\BOX_A_LATOR_LTSPICE\box-a-lator.asc
XU3 N015 N006 9V 0 N011 TL072
C2 N015 N012 100n V=35
R3 N015 VRef 1Meg
R5 0 N002 680
R4 N003 N006 680
R1 N014 N010 100
C5 N011 N006 150p
R6 OUT N013 100
R7 N016 0 10k
C4 N003 N002 22µ
C3 N011 N013 1µ
V1 9V 0 9V
V2 IN 0 SINE(0 0.4 1K) AC 1
C1 N014 0 100p
XRV1 N011 N006 N003 pot_lin Rt=10K set=0
V3 VRef 0 4.5V
XRV2 0 N014 N012 pot_lin Rt=10K set=1
R8 N007 IN 100
C6 N007 0 100p
R9 N009 0 68k
XRV3 N007 N009 N009 pot_lin Rt=1Meg set=1
C7 N008 N007 100n V=35
R10 N008 VRef 1Meg
XU1 N008 N001 9V 0 N001 TL072
R11 N004 N001 470
C8 N005 N004 47µ V=35
XRV4 0 N010 N005 pot_lin Rt=10k set=1
XRV5 N013 N016 N016 pot_lin Rt=1Meg set=0
.inc TL072.301
.ac dec 10 10 100K
.step param gain 0 1 0.1
* box-a-lator
* (https://www.thetonegeek.com)
;.ac list 1K
;.tran 50m
;.param gain 1
.lib pot.lib
.backanno
.end
