* C:\Users\ryan\Documents\GitHub\LTSpiceCircuits\Dumble Steel String Singer sn002\Reference\Deluxe\Fender Deluxe AB763.asc
C1 N010 N011 360p
XU1 N010 N014 N030 7025
R1 N030 N042 1.5K
R2 HT-A N010 100K
C2 N030 N042 5µ
C3 N027 N026 0.1µ
R3 N010 N026 100K
XU2 N011 N022 N021 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU3 N027 N046 N032 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU4 N015 P001 N031 7025
R4 N031 N047 1.5k
R5 HT-A N015 100K
C5 N031 N047 5µ
V1 HT1 0 445 Rser=10
C6 N015 P002 0.01µ
R6 HT3 HT2 1.8k
C7 HT3 0 20µ
R7 N046 0 1.8k
XU5 N021 0 N023 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R8 N004 0 47
C8 N034 N004 0.1µ
R9 N028 N004 22K
C9 N018 N017 0.001µ
R10 N018 N028 1Meg
R11 N028 N034 1Meg
R12 N029 N028 470
XU6 N007 N018 N029 12AT7
XU7 N039 N034 N029 12AT7
R13 HT3 N039 100K
R14 N007 HT3 82K
C10 N008 N007 0.1µ
C11 N040 N039 0.1µ
R15 N008 BIAS 220K
R16 BIAS N040 220K
XU8 N005 N006 N009 0 6V6-GT
XU9 N037 N045 N041 0 6V6-GT
R17 OUTPUT 0 8
R18 HT2 N006 470
R19 HT2 N045 470
R20 OUTPUT N004 2.7k
R21 HT4 HT3 4.7k
C12 HT4 0 20µ
L1 HT2 HT1 4 Rser=100
C13 HT2 0 20µ
R22 N020 N014 68K
R23 N013 0 1Meg
R24 N013 N014 68K
XU10 N019 N020 N013 N020 N013 0 dpdt SET={INPUT}
XU11 N070 0 N080 pot_pow Rtot=50K wiper={INTENSITY} Rtap=.50K tap=0.5
XU12 0 N094 spst SET={VIB}
R25 N094 N096 2.2Meg
R26 N078 N094 1Meg
R27 N081 N094 1Meg
C14 N081 N078 0.01µ
C15 N084 N081 0.01µ
XU13 N083 N078 N091 12AX7A
XU14 N085 N081 N092 12AX7A
C16 N084 N083 0.02µ
R28 N083 HT2 220K
R29 N091 0 2700
C17 N091 0 25µ
R30 N092 0 100K
C18 N092 0 5µ
XU15 N084 N095 N084 pot_pow Rtot=3MEG wiper={SPEED} Rtap=.3MEG tap=0.5
R31 N095 0 100K
R32 N085 HT2 10Meg
R33 N082 HT2 100K
V2 N096 0 -55
XU16 N082 N085 N080 0 VCRAbs RL=3K RD=500K VM=100 VT=0
C19 N062 N063 250p
XU17 N062 N065 N076 7025
R35 N076 0 1.5K
R36 HT4 N062 100K
C20 N076 0 25µ
C21 N075 N074 0.1µ
C22 N077 N074 0.033µ
R37 N062 N074 100K
XU18 N063 N075 N072 pot_pow Rtot=250K wiper={TREB} Rtap=25k tap=0.5
XU19 N075 N077 N075 pot_pow Rtot=250K wiper={BASS} Rtap=25k tap=0.5
XU20 N066 N073 A 7025
R38 HT4 N066 100K
C23 N066 N067 0.1
R39 N077 0 6800
XU21 N072 0 N073 pot_pow Rtot=1MEG wiper={VOL} Rtap=.1MEG tap=0.5
R40 N071 N065 68K
R41 N064 0 1Meg
R42 N064 N065 68K
XU22 N055 N071 N064 N071 N064 0 dpdt SET={VIBINPUT}
V3 N053 0 SINE(0 0.03 400) AC 1 0 Rser=5K
XU23 N053 N055 N019 spdt SET={NORMVIB}
C24 N073 N072 47p
XU24 N005 HT1 N037 OUTPUT 0 PP_OUTPUT_XFRMR
XU25 N088 N090 N093 12AT7
XU26 N088 N090 N093 12AT7
R43 N093 0 2700
C25 N093 0 25µ
XU27 HT2 N088 RevUnitIn+ 0 INTER-TRAFO L1=2H L2=0.5mH K=1 R1=1m R2=1m
XU28 N086 RevUnitOut+ E 7025
R44 RevUnitOut+ 0 220K
XU29 0 RevUnitOut+ spst SET={REV}
R45 HT4 N086 100K
C27 N086 N087 0.003µ
XU30 N087 0 N089 pot_lin Rtot=100K wiper={REVERB} Rtap=.50K tap=0.5
R46 N089 N068 470K
R47 N068 0 220K
C28 N067 N090 500p
R48 N090 0 1Meg
R49 RevUnitIn+ 0 8
B1 N079 0 V=delay(V(RevUnitIn+)/3,0.037) ++delay(V(RevUnitOut+)/3,0.01)
R50 RevUnitOut+ N079 3K
R51 NC_01 N070 220K
XU31 N069 N068 E 7025
C29 N068 N067 10p
R52 N068 N067 3.3Meg
R53 HT4 N069 100K
C30 N070 N069 0.1µ
R54 E 0 820
C31 E 0 25µ
V4 N002 0 -50 Rser=100
XU32 N002 N001 BIAS pot_lin Rtot=10K wiper={BIAS} Rtap=1k tap=0.5
R55 N001 0 10K
R56 N009 N008 1.5K
R57 N041 N040 1.5K
R58 HT2 HT6 22k
C26 HT6 0 20µ
R59 HT4 HT-A 1k
C32 HT-A 0 20µ
R60 HT4 N003 1k
C33 N003 0 20µ
R61 N003 0 220k
C34 N026 N033 .047
XU33 NC_02 0 N033 pot_lin Rtot=100K wiper={MID}
R62 N042 0 100
XU34 N022 N043 N032 N032 P003 N032 dpdt SET={GUITARMIC}
XU35 N038 N044 P004 N038 N044 N049 dpdt SET={DEEP}
XU36 N021 N012 NC_03 spdt SET={BRIGHT}
C4 N012 N023 250p
R63 N021 P003 100k
C35 N043 0 .0047
R64 N032 P004 270k
R65 N023 N049 270k
C36 N038 N059 .01
R66 N038 N059 1m
R67 0 N044 10k
R68 N047 0 100
R69 P001 N023 68k
C37 N024 N015 .001µ
L2 N016 P002 .3 Rser=59
R34 N016 N024 470k
XHigh N017 N024 N036 N050 N052 N058 N060 N061 Switch7Pos1Pole POS={POS}
XLow N025 N016 N035 N048 N051 N054 N056 N057 Switch7Pos1Pole POS=0
C39 N036 N024 150p
C40 N050 N024 330p
C41 N052 N024 1000p
C42 N058 N024 2400p
C43 N060 N024 5100p
C44 N024 0 .003µ
R70 N017 N024 820k
R71 0 N017 100k
R72 N016 N035 39k
R73 N035 N048 68k
R74 N048 N051 100k
R75 N051 N054 180k
R76 N054 N056 270k
R77 N056 N057 390k
R78 N057 0 12k
C45 N016 N057 .01µ
R79 N025 N017 270k
C38 N061 N024 .01µ
.INC Koren_Tubes.INC
.INC potentiometer_standard.lib
.ac oct 10 20 20k
;tran 0 100m 1m
;op
* TREB
* BASS
.param BASS=0.5 TREB=0.5 MID=0.5
* .STEP LIN PARAM bass 0.0  1.0 0.5
* .STEP LIN PARAM TREB 0.0  1.0 0.5
* .STEP LIN PARAM VOL 0.1  1.0 0.1
.PARAM  VOL=0.5
* Fender Deluxe-Amp AB763\nLTspice Schematic Jim Ryan 2012
.PARAM VIB=0 SPEED=.5 INTENSITY=.5
* 0 = Vibro OFF\n1 = Vibro ON
.INC VCRA.INC
* TREB
* BASS
* 1 = Input jack 1\n0 = Input jack 2
.PARAM  INPUT=1
* .STEP PARAM INPUT LIST 0  1
.param NORMVIB=0
* 0 = Normal Input\n1 = Vibro Input
* .STEP PARAM NORMVIB LIST 0  1
* 1 = Vibro Input jack 1\n0 = Vibro Input jack 2
.PARAM  VIBINPUT=1
* .STEP PARAM VIBINPUT LIST 0  1
.INC transPPC.INC
.PARAM REV=1 REVERB=0.5
* 1 = Reverb OFF\n0 = Reverb ON
.INC transformer211.INC
* .STEP LIN PARAM bias 0.1 0.9 0.2
.PARAM  bias=0.4
* FET Load
* .STEP LIN PARAM MID 0.0  1.0 0.5
.param GUITARMIC=1
.param DEEP=0
* 0 = GUITAR\n1 = MIC
* 0 = Deep On\n1 = Deep Off
.param BRIGHT=0
* 0 = Bright Off\n1 = Bright On
.step param POS 1 7 1
.lib Switch7Pos1Pole.sub
.lib switches.sub
.backanno
.end
